US07473784B2
3. (2-(2-Fluorophenyl)-1,3-dithian-2-yl)(2-(isopropylamino)benzo [d]thiazol-6-yl)methanol
To a solution of 2-(2-fluorophenyl)-1,3-dithiane (0.820 g, 3.83 mmol) in THF (25 mL) was added n-BuLi (1.6 M in hexane, 2.3 mL, 3.68 mmol) at −10° C. over 10 min. The resulting solution was stirred at −10° C. for 30 min before a solution of 2-(isopropylamino)benzo[d]thiazole-6-carbaldehyde (0.385 g, 1.75 mmol) in THF (5 mL) was added. The mixture was stirred at between −10° C. and 5° C. for 2.5 hr, and then quenched with saturated NH4Cl solution (25 mL). This was extracted with AcOEt (3×20 mL). The combined extract was washed with brine and dried over anhydrous MgSO4. The title compound (0.563 g, 74% yield) was isolated as a pale yellow solid by silica gel chromatography (35% AcOEt/hexane).

reactant | 2-(2-fluorophenyl)-1,3-dithiane | 3.83 mmol, 0.820 g | FC1=C(C=CC=C1)C1SCCCS1 | C10H11FS2
reactant | n-BuLi | 3.68 mmol, 1.6 M, 2.3 mL | [Li]CCCC
reactant | 2-(isopropylamino)benzo[d]thiazole-6-carbaldehyde | 1.75 mmol, 0.385 g | C(C)(C)NC=1SC2=C(N1)C=CC(=C2)C=O | C11H12N2OS
reactant | AcOEt hexane | CCOC(=O)C.CCCCCC
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-(2-Fluorophenyl)-1,3-dithian-2-yl)(2-(isopropylamino)benzo [d]thiazol-6-yl)methanol | 0.563 g, 74% yield | FC1=C(C=CC=C1)C1(SCCCS1)C(O)C1=CC2=C(N=C(S2)NC(C)C)C=C1 | C21H23FN2OS3
